US06380239B1
To a stirred solution of glutamic acid (10 mmol) and sodium carbonate (10.5 mmol) in water (50 mL) is added 4-nitrophthalic anhydride (10 mmol). The resulting mixture is stirred for 3 hours. The mixture is filtered. The filtrate is then acidified to pH 1 with 4 N hydrochloric acid to afford 2-(4-nitro-1-oxoisoindolin-2-yl)glutaric acid.

reactant | glutamic acid | 10 mmol | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium carbonate | 10.5 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrophthalic anhydride | 10 mmol | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | water | 50 mL | O | H2O
product | 2-(4-nitro-1-oxoisoindolin-2-yl)glutaric acid | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C(C(=O)O)CCC(=O)O | C13H12N2O7
